US04992553
1. 1-(6-bromohexyl)-5-methoxy-2-(4-methoxyphenyl)-3-methyl-indole
12.5 mmol (300 mg) of NaH are added to 40 ml of absolute dimethylformamide and cooled to 0° C. With vigorous stirring, 7.5 mmol of 5-methoxy-2-(4-methoxy-phenyl)-3-methyl-indole dissolved in 25 ml of absolute dimethylformamide are slowly added dropwise and stirred for 30 minutes at 0° C. This suspension is added dropwise with stirring and ice-cooling to a solution of 11.0 mmol of 1,6-dibromohexane in 25 ml of absolute dimethylformamide and stirred for 30 minutes at 0° C. Excess NaH is destroyed with water and stirring continues for a further 2.5 hours at room temperature. The mixture is shaken with dichloromethane, dried over MgSO4 and the solvent removed. The brown oily crude product is chromatographed on silica gel with dichloro-methane and recrystallized from ethanol. Yield 84%. M.P. 60° C.

reactant | NaH | 12.5 mmol, 300 mg | [H-].[Na+]
reactant | 5-methoxy-2-(4-methoxy-phenyl)-3-methyl-indole | 7.5 mmol | COC=1C=C2C(=C(NC2=CC1)C1=CC=C(C=C1)OC)C | C17H17NO2
reactant | 1,6-dibromohexane | 11.0 mmol | BrCCCCCCBr | C6H12Br2
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 1-(6-bromohexyl)-5-methoxy-2-(4-methoxyphenyl)-3-methyl-indole | Yield 84% | BrCCCCCCN1C(=C(C2=CC(=CC=C12)OC)C)C1=CC=C(C=C1)OC | C23H28BrNO2
